US07608603B2
(S)-1-[3-(2-chlorophenyl)-6-(2,4-difluorophenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]propan-2-ol (2.4 g, 5.5 mmol) was suspended in 50 mL MeOH and stirred. Formaldehyde (3.3 mL, excess) was added and the reaction mixture was stirred for 16 hours at room temperature. The reaction mixture was partitioned between water and ethyl acetate, and the organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to give 2.0 g of 1-[3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1-hydroxymethyl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol, MS (M+H)=462.

reactant | (S)-1-[3-(2-chlorophenyl)-6-(2,4-difluorophenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]propan-2-ol | 5.5 mmol, 2.4 g | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)NC[C@H](C)O)OC2=C(C=C(C=C2)F)F | C20H16ClF2N5O2
reactant | Formaldehyde | 3.3 mL | C=O | CH2O
solvent | MeOH | 50 mL | CO | CH4O
product | 1-[3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1-hydroxymethyl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol | 2.0 g | ClC1=C(C=CC=C1)C1=NN(C2=NC(=NC(=C21)NCC(C)O)OC2=C(C=C(C=C2)F)F)CO | C21H18ClF2N5O3
